Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___
 
Chief Complaint:
Chills, Fever, N/V 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a very pleasant ___ year old gentleman with history 
of NIDDM2, HTN, BPH, GERD, inoperable cholangiocarcinoma s/p 
gemcitabine/cisplatin and cyberknife ___ and complicated by 
recurrent biliary obstruction/cholangitis with MDR E coli, 
biliary sepsis and s/p multiple ERCPs (2 metal stents still in 
place from ___ and most recently PTBD that fell out ___ 
who presents for fever to 102, nausea and chills consistent with 
prior episodes of cholangitis.  Last admission he had no RUQ 
pain but presented with hyperglycemia, fever and chills and MRCP 
showed multifocal cholangitis with partial CBD stent 
obstruction.  He underwent ERCP which was complicated by bleed 
which self-resolved. He was treated with meropenem for resistant 
ecoli.  Since discharge, he has been feeling well, however 
developed fever/chills this AM, and felt a little nauseous.  
Didn't eat normal breakfast, then ate some fruit/yogurt which he 
vomited x 2.  No diarrhea, + constipation, no abd pain.  ___ well 
controlled.

In the ED, initial vitals were:  100.9 87 137/63 20 97% RA.  
Labs were notable for lipase of 1133, phos 2.1, lactate 2.9.   
Blood and urine cxs were sent. LUQ US showed new pneumobilia in 
hepatic lobe, limiting assessment for biliary dilation.  
Persistent pancreatic ductal dilation, splenomegaly.  He was 
given Tylenol, pip/tazo, Zofran, meropenem, and NS.  Occ cough 
from PND.  

On the floor, no new complaints.  Feels comfortable, denies 
N/v/abd pain.  He had one BM on arrival to the floor.

Review of systems:
(+) Per HPI
(-) Denies night sweats recently, no recent weight loss or gain. 
Denies headache, sinus tenderness, congestion. Denies shortness 
of breath. Denies chest pain or tightness, palpitations. Denies  
diarrhea or abdominal pain. No recent change in bowel or bladder 
habits. No dysuria. Denies arthralgias or myalgias. 10 pt ros 
otherwise negative.

 
Past Medical History:
(per chart, confirmed with pt):
GERD
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
C.diff x3
Diabetes Mellitus diagnosed ___
Cholangiocarcinoma: treated with stenting and 
cisplatin/gemcitabine ___
 
Social History:
___
Family History:
(per chart, confirmed with pt):
His grandfather had a cancer of the bone. He has no other family 
history of malignancy.  Grandmother with cancer, unknown type ? 
colon, grandmother with diabetes.
 
Physical Exam:
ADMISSION EXAM:
Vitals: 98.0 ___
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
Neck: Supple, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions

DISCHARGE EXAM:
AF, VSS
 98.2
PO 119 / 73 68 20 99 Ra 
Gen: Lying in bed in no apparent distress 
HEENT: Normocephalic and atraumatic, PERRL, Anicteric, eyes
conjugate, MMM, no oropharyngeal exudates
Cardiovascular: RRR no MRG, nl. S1 and S2; no JVD
Pulmonary: CTAB
Gastroinestinal: + BS, soft, NT, ND, no HSM
MSK: No edema
GU: no suprapubic tenderness
Neurological: AOX3, CN II-XII intact, ___ strength all
extremities, gait deferred
Psychiatric: pleasant, appropriate affect
Skin: two well-healed scars in RUQ

 
Pertinent Results:
___ 02:18PM URINE  HOURS-RANDOM
___ 02:18PM URINE  UHOLD-HOLD
___ 02:18PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:18PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 02:18PM URINE  RBC-<1 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 02:18PM URINE  MUCOUS-RARE*
___ 01:27PM   LACTATE-2.9*
___ 01:10PM   GLUCOSE-170* UREA N-15 CREAT-0.6 SODIUM-135 
POTASSIUM-4.0 CHLORIDE-98 TOTAL CO2-20* ANION GAP-17*
___ 01:10PM   estGFR-Using this
___ 01:10PM   ALT(SGPT)-24 AST(SGOT)-35 ALK PHOS-120 TOT 
BILI-1.1
___ 01:10PM   LIPASE-1133*
___ 01:10PM   ALBUMIN-4.2 CALCIUM-9.2 PHOSPHATE-2.1* 
MAGNESIUM-1.6
___ 01:10PM   WBC-6.8# RBC-4.24* HGB-11.3* HCT-36.2* MCV-85 
MCH-26.7 MCHC-31.2* RDW-13.9 RDWSD-43.3
___ 01:10PM   NEUTS-94.1* LYMPHS-3.7* MONOS-1.6* EOS-0.1* 
BASOS-0.1 IM ___ AbsNeut-6.37*# AbsLymp-0.25* AbsMono-0.11* 
AbsEos-0.01* AbsBaso-0.01
___ 01:10PM   PLT COUNT-117*

BCx (___): NGTD x 2
UCx (___): negative

Imaging 
MRCP (___):
Persistent, although decreased cholangitis in the right hepatic
lobe, involving segments 5 and 6.  No evidence of intrahepatic
abscess.   
Stable mild intrahepatic biliary duct dilatation, left greater
than right.  
Persistent abnormal parenchymal signal with enhancement at the
confluence of the hepatic ducts, likely related to posttreatment
inflammatory fibrosis. Underlying viable tumor cannot be
excluded. 

RUQUS (___):
1. New pneumobilia is seen in the atrophic left hepatic lobe,
limiting assessment for biliary dilatation.  No evidence of
biliary dilatation in the right hepatic lobe. Patient is status
post biliary stenting x 2.
2. Persistent pancreatic ductal dilatation, measuring up to 5 
mm,
similar to the prior MRCP in ___. 
3. Mildly coarsened hepatic parenchymal echotexture is similar 
to
prior study. 
4. Splenomegaly, measuring up to 17 cm 

CXR (___):
Opacities in the right middle lobe can be concerning for 
aspiration versus
early developing infection.  There is mildly increased 
prominence of the
mediastinal since the prior study in ___, possibly 
reactive lymph
nodes.

___ 06:00AM BLOOD WBC-2.7* RBC-3.64* Hgb-9.7* Hct-30.7* 
MCV-84 MCH-26.6 MCHC-31.6* RDW-13.7 RDWSD-43.1 Plt Ct-78*
___ 07:00AM BLOOD WBC-2.7* RBC-3.69* Hgb-10.1* Hct-31.3* 
MCV-85 MCH-27.4 MCHC-32.3 RDW-13.8 RDWSD-42.6 Plt Ct-80*
___ 06:17AM BLOOD WBC-3.4*# RBC-3.86* Hgb-10.3* Hct-32.6* 
MCV-85 MCH-26.7 MCHC-31.6* RDW-13.7 RDWSD-42.5 Plt Ct-88*
___ 07:00AM BLOOD Neuts-61.3 ___ Monos-11.0 Eos-3.7 
Baso-0.4 Im ___ AbsNeut-1.67 AbsLymp-0.63* AbsMono-0.30 
AbsEos-0.10 AbsBaso-0.01
___ 06:00AM BLOOD Plt Ct-78*
___ 06:00AM BLOOD Glucose-135* UreaN-16 Creat-0.6 Na-142 
K-4.4 Cl-105 HCO3-24 AnGap-13
___ 06:00AM BLOOD ALT-29 AST-26 AlkPhos-127 TotBili-0.3
___ 06:00AM BLOOD Calcium-8.4
___ 09:55PM BLOOD Lactate-1.___ yo male PMHx DM2, BPH, cdiff x2-3, inoperable 
cholangiocarcinoma s/p gemcitabine/cisplatin and cyberknife ___ 
w/ complications of recurrent biliary obstruction/cholangitis 
with MDR E-coli, biliary sepsis and s/p multiple ERCPs (2 metal 
stents in place since ___ and most recently PTBD that fell 
out ___, recent admission for cholangitis c/b hemobilia 
during attempted ERCP who presents for fever to 102 a/w nausea, 
non-bloody emesis and chills on day of admission w/out abdominal 
pain consistent with prior episodes of acute cholangitis. 

# Fever:
# Cholangitis:
Mr. ___ presented with fevers and rigors, similar to multiple 
prior episodes of acute cholangitis despite 
non-obstructive-appearing LFTs. Given his prior resistance 
patterns (including MDR E.coli), he was started empirically on 
meropenem and vancomycin (although he does have a remote hx of 
VRE). He clinically improved with antibiotic therapy alone, and 
Vanco was d/c'd ___ (given prior VRE and unlikely MRSA as 
etiology). BCx were negative. RUQ U/S showed pneumobilia, making 
appreciation of the biliary anatomy difficult. Therefore, MRCP 
was performed, showing persistent but improved cholangitis with 
only stable intrahepatic biliary duct dilation. The ERCP team 
declining a repeat ERCP given significant hemobilia during his 
last admission in ___. In the absence of an obvious 
target for decompression, ___ was not consulted for consideration 
of biliary drain replacement. After discussion with the 
infectious disease team, the decision was made to treat for 
acute cholangitis with a 10d course of meropenem 500mg q6h 
(___), followed by initiation of suppressive doxycycline 
100mg DAILY (for VRE) and bactrim DS 1 tab daily. A PICC was 
placed for completion of his antibiotic course at home. He will 
f/u with his outpatient oncologist (Dr. ___ and with 
infectious disease for assistance managing his suppressive 
antibiotic regimen. 

# Pancytopenia:
Anemia and thrombocytopenia have fluctuated but appear within 
his recent baseline, with leukopenia likely secondary to acute 
illness. No evidence of bleeding, DIC, or TTP. No obvious 
medication culprits (meropenem is only new medication, <1% 
incidence of leukopenia reported). see above for last labs, WBC 
was 2.7, hb 9.7, platelet 78
Recommend cbc,bmp,lft in one week

# BPH: continued tamsulosin, finasteride
# HTN: continued home atenolol
# DM: Diet controlled at home, here on ISS

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dronabinol 5 mg PO QHS 
2. Finasteride 5 mg PO QPM 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. GuaiFENesin ER 600 mg PO DAILY 
5. Loratadine 10 mg PO QHS 
6. Multivitamins 1 TAB PO DAILY 
7. Pantoprazole 40 mg PO QPM 
8. Pseudoephedrine 60 mg PO DAILY 
9. Psyllium Wafer 1 WAF PO BID 
10. Tamsulosin 0.4 mg PO QHS 
11. Atenolol 50 mg PO DAILY 
12. Calcium 500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral DAILY 
13. Clotrimazole Cream 1 Appl TP BID 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO DAILY 
Start after completion of meropenem course 
RX *doxycycline hyclate 100 mg 100 capsule(s) by mouth daily 
Disp #*30 Capsule Refills:*0 
2.  Meropenem 500 mg IV Q6H 
stop date ___ 
RX *meropenem 500 mg 1 (One) inj iv every six (6) hours Disp 
#*16 Vial Refills:*0 
3.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
Start after completion of meropenem course 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 
4.  Atenolol 50 mg PO DAILY  
5.  Calcium 500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral DAILY  
6.  Clotrimazole Cream 1 Appl TP BID  
7.  Dronabinol 5 mg PO QHS  
8.  Finasteride 5 mg PO QPM  
9.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
10.  GuaiFENesin ER 600 mg PO DAILY  
11.  Loratadine 10 mg PO QHS  
12.  Multivitamins 1 TAB PO DAILY  
13.  Pantoprazole 40 mg PO QPM  
14.  Pseudoephedrine 60 mg PO DAILY  
15.  Psyllium Wafer 1 WAF PO BID  
16.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cholangitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with fevers, likely due to 
recurrent cholangitis. MRCP confirmed inflammation of the 
biliary tree but did not reveal obvious extra-hepatic 
obstruction. You were started on antibiotics with guidance from 
the infectious disease team and improved rapidly. You are being 
discharged to complete a course of IV antibiotics, after which 
you should initiate doxycycline 100mg daily and bactrim DS 1 tab 
twice a day for suppression of future infections. Please follow 
up with your oncologist and with an infectious disease doctor 
___ have been made) after discharge. 

With best wishes,
___ Medicine
 
Followup Instructions:
___